US07435744B2
5-{2-[4-(4-Fluoro-benzyl)-piperidin-1-yl]-2-oxo-ethylamino}-1,3-dihydro-benzoimidazol-2-one (45 70001863)
The title compound is prepared from 2-chloro-1-[4-(4-fluoro-benzyl)-piperidine-1-yl]-ethanone and 5-amino-1,3-dihydro-benzimidazol-2-one according to the method described in Example 142b. Melting Point: 249-251° C. (diethylether)

reactant | 2-chloro-1-[4-(4-fluoro-benzyl)-piperidine-1-yl]-ethanone | ClCC(=O)N1CCC(CC1)CC1=CC=C(C=C1)F | C14H17ClFNO
reactant | 5-amino-1,3-dihydro-benzimidazol-2-one | NC1=CC2=C(NC(N2)=O)C=C1 | C7H7N3O
solvent | diethylether | C(C)OCC | C4H10O
product | 5-{2-[4-(4-Fluoro-benzyl)-piperidin-1-yl]-2-oxo-ethylamino}-1,3-dihydro-benzoimidazol-2-one | FC1=CC=C(CC2CCN(CC2)C(CNC2=CC3=C(NC(N3)=O)C=C2)=O)C=C1 | C21H23FN4O2
